US04782055
A solution of 2-amino-3-(2-methoxybenzyloxy)pyridine (3.50 g) and 3-tosyloxy-5-hexyn-2-one (4.86 g) in ethanol (30 ml) was stirred and refluxed for 24 hours and then evaporated in vacuo. To the residue was added an aqueous solution of sodium bicarbonate and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The oily residue was purified by column chromatography on silica gel (50 g) using chloroform as an eluent to give a solid, which was recrystallized from a mixture of ethyl acetate and n-hexane to give 8-(2-methoxybenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine (1.49 g).

reactant | 2-amino-3-(2-methoxybenzyloxy)pyridine | 3.50 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)OC | C13H14N2O2
reactant | 3-tosyloxy-5-hexyn-2-one | 4.86 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C(C)=O)CC#C | C13H14O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 8-(2-methoxybenzyloxy)-2-methyl-3-(2-propynyl)imidazo[1,2-a]pyridine | 1.49 g | COC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)CC#C)C=CC=C1 | C19H18N2O2
